US06649230B1
4,4′-methylenedianiline;
4,4′-ethylenedianiline; 4,4′-diamino-3,3′-dimethyldiphenylmethane; 3,3′,5,5′-tetramethylbenzidine; 4,4′-diaminodiphenyl sulfone; 4,4′-diaminodiphenyl ether; 1,5-diaminonaphthalene; 3,3′-dimethyl-4,4′-diaminobiphenyl;

reactant | 4,4′-ethylenedianiline | C(CC1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C14H16N2
reactant | 4,4′-diamino-3,3′-dimethyldiphenylmethane | CC1=C(C=CC(=C1)CC2=CC(=C(C=C2)N)C)N | C15H18N2
reactant | 3,3′,5,5′-tetramethylbenzidine | CC=1C=C(C=C(C1N)C)C1=CC(=C(N)C(=C1)C)C | C16H20N2
reactant | 4,4′-diaminodiphenyl sulfone | C1=CC(=CC=C1N)S(=O)(=O)C2=CC=C(C=C2)N | C12H12N2O2S
reactant | 4,4′-diaminodiphenyl ether | C1=CC(=CC=C1N)OC=2C=CC(=CC2)N | C12H12N2O
reactant | 1,5-diaminonaphthalene | NC1=CC=CC2=C(C=CC=C12)N | C10H10N2
reactant | 3,3′-dimethyl-4,4′-diaminobiphenyl | CC=1C=C(C=CC1N)C1=CC(=C(C=C1)N)C | C14H16N2
product | 4,4′-methylenedianiline | C(C1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C13H14N2
